US04766125
To 1 part of a solution of 2 parts of thiophene in 40 parts of ethanol were added 2.2 parts of benzaldehyde, 2.6 parts of 2-piperazinecarboxamide and 120 parts of methanol. The whole was hydrogenated at normal pressure and at room temperature with 2 parts of platinum-on-charcoal catalyst 5%. After the calculated amount of hydrogen was taken up, the catalyst was filtered off and the filtrate was evaporated. The solid residue was boiled in 64 parts of acetonitrile. The mixture was filtered and the filtrate was allowed to crystallize at room temperature. The product was filtered off and dried, yielding 2.4 parts (55%) of 4-(phenylmethyl)-2-piperazinecarboxamide; mp. 168.3° C. (intermediate 36).

reactant | thiophene | S1C=CC=C1 | C4H4S
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | 2-piperazinecarboxamide | N1C(CNCC1)C(=O)N | C5H11N3O
reactant | hydrogen | [H][H] | H2
catalyst | platinum-on-charcoal | [Pt] | Pt
solvent | methanol | CO | CH4O
solvent | ethanol | C(C)O | C2H6O
product | 4-(phenylmethyl)-2-piperazinecarboxamide | 55% | C1(=CC=CC=C1)CN1CC(NCC1)C(=O)N | C12H17N3O
